*****************************************************************
* NXP NX3008CBKSN
*
* Polarity N-Channel
* Ratings 30V/9.818200E-001OHMS/0.35A
*
* Date Created Wed Feb 01 06:10:35 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT NX3008CBKS_N DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21598165336399
LS SOURCE 8 1.28299790790991e-09
RLS2 SOURCE 8 3.22452544164868
RLS1 8 7 0.0548513610286835

RDS 7 4 214546234713.581 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.542341099583007 TC=0.00292465889279523,4.29822887673458E-05
RBD 9 4 0.370882665825938 TC=0.00292465889279523,4.29822887673458E-05
* initially RBD 9 4 0.384882665825938
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 57269668.5517933
CGS 2 6 3.188e-11
RG 1 2 21.3470486389713

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -8	33.36
+ -5	34.93
+ -4	34.81
+ -3	35.22
+ -2	33.64
+ -1	19.44
+ -0.5	15.03
+ -0.2	12.06
+ -0.1	11.1
+ 0	10.175
+ 0.1	9.19
+ 0.2	8.27
+ 0.5	6.18
+ 1	4.63
+ 2	3.66
+ 3	3.23
+ 4	2.98
+ 5	2.81
+ 6	2.68
+ 8	2.5
+ 10	2.39
+ 12	2.3
+ 15	2.21
+ 20	2.11
+ 25	2.05
+ 30	2.02



.MODEL MINT NMOS(Vto=1.02473063650349 Kp=7.528172e-001 Nfs=550000000000 Eta=0
* initially Nfs=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=2000)
* initially Vmax=1000

.MODEL DBD D(Bv=36.68 Ibv=2.500000E-004 Rs=1E-6 Is=5.94841837646846e-13
* initially Is=7.84841837646846e-13
+ N=1 M=0.33 VJ=0.5 Fc=0.5 Cjo=1.294e-11 Tt=1.85e-08)

.ENDS
